US08877801B2
To a microwave vial containing 3-(4-bromophenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol (20 mg, 0.05 mmol) in DMF (2 mL) was added triethyl amine (0.202 mL, 1.45 mmol), tert-butyl 4-vinyl-1H-imidazole-1-carboxylate (28.2 mg, 0.15 mmol) and Pd(PPh3)2Cl2 (3.40 mg, 4.84 μmol). The system was flushed with nitrogen and heated at 150° C. for 1 h under microwave irradiation. The mixture was cooled to room temperature and diluted with DCM and sat. aq. NH4Cl. The organic layer was collected (phase separator), concentrated in vacuo and purified by reverse phase HPLC (basic condition, 0.1% NH4OH in 1-100% CH3CN/H2O) to afford (E)-3-(4-(2-(1H-imidazol-4-yl)vinyl)phenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol (3 mg, 7.03 μmol, 15% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.57 (s, 1H), 7.43 (d, J=8.59 Hz, 2H), 7.30 (d, J=8.59 Hz, 2H), 6.96-7.14 (m, 3H), 6.74-6.96 (m, 4H), 6.53-6.74 (m, 3H). LC/MS (m/z, MH+): 427.3.

reactant | 3-(4-bromophenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol | 0.05 mmol, 20 mg | BrC1=CC=C(OC=2C3=C(SC2C2=CC=C(C=C2)O)C=C(C=C3)O)C=C1 | C20H13BrO3S
reactant | triethyl amine | 1.45 mmol, 0.202 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-vinyl-1H-imidazole-1-carboxylate | 0.15 mmol, 28.2 mg | C(=C)C=1N=CN(C1)C(=O)OC(C)(C)C | C10H14N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 4.84 μmol, 3.40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-3-(4-(2-(1H-imidazol-4-yl)vinyl)phenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol | 7.03 μmol, 3 mg, 15% yield | N1C=NC(=C1)/C=C/C1=CC=C(OC=2C3=C(SC2C2=CC=C(C=C2)O)C=C(C=C3)O)C=C1 | C25H18N2O3S
